US07888366B2
Sodium hydride (60%; 349 mg; 8.7 mmol) was suspended in DMF (3 mL) and cooled to 0° C. under inert atmosphere. Cyclopentylmethanol (0.79 mL; 7.3 mmol) was added dropwise to the sodium hydride mixture. The solution was allowed to warm to room temperature and stirred for 20 minutes. The solution was then added dropwise to a solution of 2,6-difluorobenzonitrile (1.03 g; 7.4 mmol) in DMF (3 mL) cooled to 0° C. The mixture was allowed to warm to room temperature and stirred for 4 hours. The solution was poured over 50 mL of cooled water and extracted with ethyl acetate and solvent removed. Purification by column chromatography (5% ethyl acetate/hexane) yielded 1.66 grams of 2-fluoro-6-(cyclopentylmethoxy)benzonitrile.

reactant | Sodium hydride | 8.7 mmol, 349 mg | [H-].[Na+]
reactant | Cyclopentylmethanol | 7.3 mmol, 0.79 mL | C1(CCCC1)CO | C6H12O
reactant | 2,6-difluorobenzonitrile | 7.4 mmol, 1.03 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | water | 50 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-6-(cyclopentylmethoxy)benzonitrile | 1.66 grams | FC1=C(C#N)C(=CC=C1)OCC1CCCC1 | C13H14FNO
